* C:\Users\TCFH2003\Documents\!!PCB_Projects\Proiect1\hysteresis_comparator.asc
Q1 N001 Vin+ N005 0 BC337-25
Q2 Vout Vin- N005 0 BC337-25
Q3 N001 N001 Vcc 0 BC327-25
Q4 Vout N001 Vcc 0 BC327-25
V1 Vcc 0 12
R2 Vout 0 10k
Q5 N005 N007 0 0 BC337-25
Q6 N007 N007 0 0 BC337-25
R1 Vcc N007 2k
R3 N003 N002 1k
R4 Vcc N002 10k
R5 N002 0 10k
V3 N004 0 SINE(6 6 1k)
XU2 N002 N004 Vcc 0 N003 OP292
V2 N006 0 SINE(6 6 1k)
R6 Vcc Vin+ 10k
R7 Vin+ 0 10k
R8 Vout Vin+ 1k
R9 Vin- N006 5k
.model NPN NPN
.model PNP PNP
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 5m
.inc opamp.sub
.lib ADI1.lib
.backanno
.end
