* C:\Users\TCFH2003\Documents\!!PCB_Projects\Proiect1\hysteresis_comparator.asc
Q1 N001 Vin+ N005 0 BC337-25
Q2 Vout Vin- N005 0 BC337-25
Q3 N001 N001 Vcc 0 BC327-25
Q4 Vout N001 Vcc 0 BC327-25
V1 Vcc 0 12
R2 Vout 0 10k
Q5 N005 N007 0 0 BC337-25
Q6 N007 N007 0 0 BC337-25
R1 Vcc N007 2k
R3 N003 N002 1k
R4 Vcc N002 10k
R5 N002 0 10k
V3 N004 0 SINE(6 6 1k)
XU2 N002 N004 Vcc 0 N003 OP292
V2 N006 0 SINE(6 6 1k)
R6 Vcc Vin+ 10k
R7 Vin+ 0 10k
R8 Vout Vin+ 1k
R9 Vin- N006 5k
R10 Vo 0 10k
R11 Vcc N010 2k
M1 N010 N010 0 0 BS170
M2 N009 N010 0 0 BS170
M3 Vo Vin_n N009 N009 BS170
M4 N008 Vin_p N009 N009 BS170
M5 N008 N008 Vcc Vcc BS250P
M6 Vo N008 Vcc Vcc BS250P
V4 Vin_n 0 SINE(6 6 1k)
R12 Vcc Vin_p 10k
R13 Vin_p 0 10k
R14 Vo Vin_p 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\TCFH2003\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5m
.inc opamp.sub
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS170.lib"
.inc "C:\Users\TCFH2003\Documents\LTspice\PSPICE_Models\BS250P.lib"
.lib ADI1.lib
.backanno
.end
